US09119398B2
Tert-butyl 2-oxo-3,3a,4,6a-tetrahydrocyclopenta[b]pyrrole-1-carboxylate IV-1
To a solution of 3,3a,4,6a-tetrahydro-1H-cyclopenta[b]pyrrol-2-one (340 mg, 2.76 mmol, as prepared in J. Org. Chem. 1988, 53, 4006-4014) in CH2Cl2 (27 mL) was added di-tert-butyl dicarbonate (1.9 mL, 8.28 mmol), Et3N (1.16 mL, 8.28 mmol) and N,N-dimethylaminopyridine (34 mg, 0.27 mmol) The solution was stirred for 5 h. It was then poured into water and extracted with CH2Cl2. The combined organic layers were washed with brine, dried, concentrated and crude residue was purified by flash chromatography (2% MeOH in CH2Cl2) giving the desired compound as a yellow oil (502 mg, 89%); 1H NMR (400 MHz, CDCl3) 5.51 (2H, m), 5.00 (1H, d), 3.89 (1H, m), 3.78 (1H, dd), 3.70 (1H, m), 2.29 (1H, dd), 2.22 (1H, m), 1.51 (9H, s).

reactant | 3,3a,4,6a-tetrahydro-1H-cyclopenta[b]pyrrol-2-one | 2.76 mmol, 340 mg | N1C2C(CC1=O)CC=C2 | C7H9NO
reactant | di-tert-butyl dicarbonate | 8.28 mmol, 1.9 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 8.28 mmol, 1.16 mL | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 27 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 2-oxo-3,3a,4,6a-tetrahydrocyclopenta[b]pyrrole-1-carboxylate | 502 mg, 89% | O=C1CC2C(N1C(=O)OC(C)(C)C)C=CC2 | C12H17NO3
